US08242125B2
To a solution of 5-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester in DCM (20 mL), TFA (20 ml, 134 mmol) is added at 0° C. After 30 min the reaction is warmed to rt. At this point, the reaction is evaporated and the crude product is dissolved in EtOAc. A Few drops of NH4OH are added to freebase the amine and the whole mixture is then evaporated. The crude product is added to a silica gel column and is eluted with DCM/MeOH/NH4OH (100:0:0 to 93:6:1) to give racemic 5-(5-methyl-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 454.9 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.50 (s, 1H) 8.33 (s, 1H) 8.06 (s, 1H) 7.94 (br. S., 2H) 7.57 (s, 1H) 7.42 (br. S., 2H) 7.12 (d, J=9.09 Hz, 1H) 6.75 (d, J=3.03 Hz, 1H) 4.70 (br. S., 1H) 4.10-4.22 (m, 2H) 1.60 (d, J=6.57 Hz, 3H). Racemate is then separated using chiral HPLC (IA column; 40% heptane, 60% Ethanol) to give the corresponding enantiomers D-1 and D-2.

reactant | 5-methyl-4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1C)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C28H26F3N5O4
reactant | TFA | 134 mmol, 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | racemic 5-(5-methyl-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC2C)(F)F | C23H18F3N5O2
